US08729081B2
To a solution of 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylic acid (0.25 g, 0.75 mmole), 3-(Azepan-1-yl)propan-1-amine (0.33 g) and DIPEA (0.32 mL) in DMF (5 mL) was added EDC (0.153 g). The reaction solution was stirred at room temperature overnight. The solvent removed and EtOAc (100 mL) was added. The organic layer was washed with saturated sodium bicarbonate (50 mL), water (50 mL) and dried over anhydrous magnesium sulfate. After filtration, the residue after concentration of the filtrate was crystallized from EtOAc/Hexane to provide the N-(3-(azepan-1-yl)propyl)-1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxamide as white solid (0.30 g, 85%). H1NMR (300 MHz, CDCl3), ppm: 7.94 (d, 2H), 7.49 (m, 1H), 7.39 (d, 2H), 3.44 (s, 2H), 3.36 (m, 2H), 2.99 (d, 2H), 2.67 (m, 4H), 2.60 (t, 2H), 2.39 (s, 3H), 2.07 (m, 3H), 1.83 (m, 4H), 1.65 (m, 10H). MS (ESI+) M/z: 473, 475 (M+H).

reactant | 1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxylic acid | 0.75 mmole, 0.25 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCC(CC1)C(=O)O)C | C17H19ClN2O3
reactant | 3-(Azepan-1-yl)propan-1-amine | 0.33 g | N1(CCCCCC1)CCCN | C9H20N2
reactant | DIPEA | 0.32 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 0.153 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(3-(azepan-1-yl)propyl)-1-((2-(4-chlorophenyl)-5-methyloxazol-4-yl)methyl)piperidine-4-carboxamide | 0.30 g, 85% | N1(CCCCCC1)CCCNC(=O)C1CCN(CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)Cl | C26H37ClN4O2
